US07435815B2
N-(2-Hydroxy-ethyl)-2-[(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetic acid with 2-[(pyridin-2-ylmethyl)-amino]-ethanol

reactant | [(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C=1C=NC(=CC1)OC)CC(=O)O | C16H19N3O5S
reactant | 2-[(pyridin-2-ylmethyl)-amino]-ethanol | N1=C(C=CC=C1)CNCCO | C8H12N2O
product | N-(2-Hydroxy-ethyl)-2-[(5-isopropyl-pyridine-2-sulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N-pyridin-2-ylmethyl-acetamide | OCCN(C(CN(C=1C=NC(=CC1)OC)S(=O)(=O)C1=NC=C(C=C1)C(C)C)=O)CC1=NC=CC=C1 | C24H29N5O5S
